US08664257B2
4-Bromo-1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid
50 mg (0.21 mmol) of 1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid were dissolved in 1.5 ml of acetic acid, sodium acetate (35 mg, 0.42 mmol) and bromine (50 mg, 0.21 mmol) were added and the mixture was stirred for 60 min. The solvent was removed in vacuo and the residue subjected to an aqueous work-up. The obtained crude title compound (60 mg) was used in the next step without further purification.

reactant | 1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid | 0.21 mmol, 50 mg | FC1=C(C=CC=C1)N1N=C(C=C1OC)C(=O)O | C11H9FN2O3
reactant | sodium acetate | 0.42 mmol, 35 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.21 mmol, 50 mg | BrBr | Br2
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | 4-Bromo-1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid | 60 mg | BrC=1C(=NN(C1OC)C1=C(C=CC=C1)F)C(=O)O | C11H8BrFN2O3
